US08476449B2
Histamine (111 mg, 1 mmol) and ethyl isothiocyanatoacetate (145 mg, 1 mmol) were dissolved in acetonitrile (6 mL), and the mixture was stirred at room temperature (25° C.) for 10 minutes. After the reaction was completed the solvent was removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using chloroform/methanol (4/1 (volume ratio)) as an eluent, to give 3-(2-(1H-imidazol-4-yl)ethyl)-2-thioxoimidazolidin-4-one in a yield of 167 mg (yield 79.5%).

reactant | Histamine | 1 mmol, 111 mg | NCCC1=CNC=N1 | C5H9N3
reactant | ethyl isothiocyanatoacetate | 1 mmol, 145 mg | N(=C=S)CC(=O)OCC | C5H7NO2S
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 3-(2-(1H-imidazol-4-yl)ethyl)-2-thioxoimidazolidin-4-one | yield 79.5% | N1C=NC(=C1)CCN1C(NCC1=O)=S | C8H10N4OS
